US07071207B2
Preparations of 1-(2-chlorophenyl)-2-(4-chlorophenyl)-3-methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
To a solution of 1-(2-chlorophenyl)-2-(4-chlorophenyl)-3-methyl-1,5,6,7-tetrahydro-4H-pyrrolo[3,2-c]pyridin-4-one (2.84 g, 7.64 mmol, prepared as in Scheme 2 and in a similar manner to Example 22) in tetrahydrofuran (38 mL) was added borane-tetrahydrofuran complex (1 M, 76 mL) at 0° C. over 20 minutes. The mixture was heated at reflux for 3 h. The mixture was cooled to rt, methanol was added, and then the solvent was evaporated off. The residue was purified by silica gel chromatography. Elution first with ethyl acetate, followed by 10% methanol in methylene chloride, gave a colorless gum (950 mg, 34.8%). LC-MS m/z (MH+) 357.1, retention time 2.78 min (method 2).

reactant | 1-(2-chlorophenyl)-2-(4-chlorophenyl)-3-methyl-1,5,6,7-tetrahydro-4H-pyrrolo[3,2-c]pyridin-4-one | ClC1=C(C=CC=C1)N1C(=C(C=2C(NCCC21)=O)C)C2=CC=C(C=C2)Cl | C20H16Cl2N2O
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 38 mL | O1CCCC1 | C4H8O
product | 1-(2-chlorophenyl)-2-(4-chlorophenyl)-3-methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 950 mg, 34.8% | ClC1=C(C=CC=C1)N1C(=C(C=2CNCCC21)C)C2=CC=C(C=C2)Cl | C20H18Cl2N2
